US06713485B2
6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-N-(4-{[3-(trifiuoromethyl) benzyl]oxy}phenyl)-4-quinazolinamine
Prepared according to Procedure D from 5-(4-{4-(3-trifluoromethylbenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde (0.6 equiv) and 2-methanesulphonyl-ethylamine (1 equiv). 1H NMR 300 MHz (DMSO-d6) 11.63 (bs, 1H); 9.88 (bs, 1H); 9.59 (bs, 1H); 8.88 (s, 1H); 8.43 (d, 1H); 7.97 (d, 1H); 7.90-7.67 (m, 6H); 7.34 (d, 1H); 7.19 (d, 2H); 6.89 (d, 1H); 5.30 (s, 2H); 4.45 (s, 2H); 3. 78 (m, 2H); 3.45 (m, 2H, obscured by water peak); 3.19 (s, 3H); MS m/z 597 (M+1).

reactant | 5-(4-{4-(3-trifluoromethylbenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde | 0.6 equiv | FC(C=1C=C(COC2=CC=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=O)C=C2)C=CC1)(F)F | C27H18F3N3O3
reactant | 2-methanesulphonyl-ethylamine | 1 equiv | CS(=O)(=O)CCN | C3H9NO2S
product | 6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-N-(4-{[3-(trifiuoromethyl) benzyl]oxy}phenyl)-4-quinazolinamine | CS(=O)(=O)CCNCC1=CC=C(O1)C=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)C(F)(F)F | C30H27F3N4O4S
